US08685974B2
To a solution of 2-bromo-4-[1-sec-butyl-3-(5-chloro-2-thienyl)-1H-pyrazol-4-yl]pyridine (0.18 mmol) in 2 mL of tetrahydrofurane was added cyclopropylacetylene (0.71 mmol), copper iodide (0.053 mmol), dichlorobis(triphenylphosphine)palladium (II) (0.053 mmol) and N,N-diisopropylethlamine (0.88 mmol). The resulting mixture was stirred in the microwave at 120° C. for 3 min. The solvent was then evaporated and the residue was purified by chromatography on silica gel (hepthane:ethyl acetate 5:1 to 2:1) to afford 35 mg of 4-[1-sec-butyl-3-(5-chloro-2-thienyl)-1H-pyrazol-4-yl]-2-(cyclopropylethynyl)pyridine (51% yield).

reactant | 2-bromo-4-[1-sec-butyl-3-(5-chloro-2-thienyl)-1H-pyrazol-4-yl]pyridine | 0.18 mmol | BrC1=NC=CC(=C1)C=1C(=NN(C1)C(C)CC)C=1SC(=CC1)Cl | C16H15BrClN3S
reactant | cyclopropylacetylene | 0.71 mmol | C1(CC1)C#C | C5H6
reactant | N,N-diisopropylethlamine | 0.88 mmol | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofurane | 2 mL | O1CCCC1 | C4H8O
catalyst | copper iodide | 0.053 mmol | [Cu](I)I
catalyst | dichlorobis(triphenylphosphine)palladium | 0.053 mmol | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-[1-sec-butyl-3-(5-chloro-2-thienyl)-1H-pyrazol-4-yl]-2-(cyclopropylethynyl)pyridine | 35 mg, 51% yield | C(C)(CC)N1N=C(C(=C1)C1=CC(=NC=C1)C#CC1CC1)C=1SC(=CC1)Cl | C21H20ClN3S
